US05189150
n-Butanol/acetic acid/water (upper phase) (4:12:5, v:v:v):
Staining characteristics: Ehrlich's reagent: brown; vanillin/sulfuric acide: blue/violet.

reactant | Ehrlich's reagent | CN(C)C1=CC=C(C=C1)C=O | C9H11NO
reactant | vanillin | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
product | n-Butanol acetic acid water | C(CCC)O.C(C)(=O)O.O | InChI=1S/C4H10O.C2H4O2.H2O/c1-2-3-4-5;1-2(3)4;/h5H,2-4H2,1H3;1H3,(H,3,4);1H2
